US04411839
Following the method of Example 1, N-ethoxycarbonylcyanoacetamide is heated with triethyl orthoacetate and acetic anhydride to give α-cyano-β-ethoxy-β-methyl-N-ethoxycarbonylacrylamide, which in turn is reacted with 2,4,6-trichlorophenylhydrazine. The resulting compound α-cyano-β-methyl-β-(2,4,6-trichlorophenylhydrazino)-N-ethoxycarbonylacrylamide (m.p.=183°-184°) is cyclized, yielding 5-cyano-6-methyl-1-(2,4,6-trichloroanilino)-2,4-pyrimidinedione, m.p.=>305°.

reactant | 2,4,6-trichlorophenylhydrazine | ClC1=C(C(=CC(=C1)Cl)Cl)NN | C6H5Cl3N2
reactant | α-cyano-β-methyl-β-(2,4,6-trichlorophenylhydrazino)-N-ethoxycarbonylacrylamide | C(#N)C(C(=O)NC(=O)OCC)=C(NNC1=C(C=C(C=C1Cl)Cl)Cl)C | C14H13Cl3N4O3
product | 5-cyano-6-methyl-1-(2,4,6-trichloroanilino)-2,4-pyrimidinedione | C(#N)C=1C(NC(N(C1C)NC1=C(C=C(C=C1Cl)Cl)Cl)=O)=O | C12H7Cl3N4O2
